US04016281
21.35 g. of 4-phenylpiperidin-4-ol hydrochloride, 14.6 g. of 1-tetralone and 10 ml. of 37% formaldehyde solution in 50 ml. of ethanol are heated under reflux for 1 hour. The mixture is evaporated and ether is added to the residue, after which the phases are separated by decantation to give 2-(4-phenyl-4-hydroxypiperidinomethyl)-1-tetralone hydrochloride; m.p. 164°-167°.

reactant | 4-phenylpiperidin-4-ol hydrochloride | Cl.C1(=CC=CC=C1)C1(CCNCC1)O
reactant | 1-tetralone | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | formaldehyde | C=O | CH2O
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-phenyl-4-hydroxypiperidinomethyl)-1-tetralone hydrochloride | Cl.C1(=CC=CC=C1)C1(CCN(CC1)CC1C(C2=CC=CC=C2CC1)=O)O | InChI=1S/C22H25NO2.ClH/c24-21-18(11-10-17-6-4-5-9-20(17)21)16-23-14-12-22(25,13-15-23)19-7-2-1-3-8-19;/h1-9,18,25H,10-16H2;1H
